US07476399B2
To a solution of heptan-4-amine (8.06 mL, 54 mmol) in triethylamine (15.3 mL, 108 mmol) and dichloromethane (135 mL), was added, dropwise at 0° C., a solution of benzo[1,3]dioxole-5-carbonyl chloride (10 g, 54 mmol) dissolved in dichloromethane (135 mL). The reaction mixture was stirred for 1 h. Solvent was removed under reduced pressure and the residue was dissolved in EtOAc. The organic layer was washed successively with 1 N aq. HCl, 1 N aq. NaOH, water, brine, dried (MgSO4) and concentrated. The residue was recrystallized in EtOAc and Hexanes to afford 6.9 g of N-(heptan-4-yl)benzo[d][1,3]dioxole-5-carboxamide (48.3%) as a white solid. 1H NMR (500 MHz, CDCl3): δ 0.92 (t, 6H), 1.38 (m, 6H), 1.53 (m, 2H), 4.11 (m, 1H), 5.63 (m, 1H), 6.01 (s, 2H), 7.98 (d, 1H), 7.27 (s, d, 2H). MS(M+H, 264).

reactant | heptan-4-amine | 54 mmol, 8.06 mL | CCCC(CCC)N | C7H17N
reactant | triethylamine | 108 mmol, 15.3 mL | C(C)N(CC)CC | C6H15N
reactant | benzo[1,3]dioxole-5-carbonyl chloride | 54 mmol, 10 g | O1COC2=C1C=CC(=C2)C(=O)Cl | C8H5ClO3
solvent | dichloromethane | 135 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 135 mL | ClCCl | CH2Cl2
product | N-(heptan-4-yl)benzo[d][1,3]dioxole-5-carboxamide | 6.9 g, 48.3% | CCCC(CCC)NC(=O)C1=CC2=C(OCO2)C=C1 | C15H21NO3
